US07645776B2
N-(4-Cyano-pyridin-2-yl)-acetamide
8 mmol of 2-Amino-isonicotinonitrile were dissolved in THF. 2 eq of DIPEA were added. The reaction mixture was cooled to 0° C. and 1.0 eq of acetylchloride in THF added dropwise and the reaction stirred for 2 h. The product was isolated by extraction from ethylacetate/water.

reactant | 2-Amino-isonicotinonitrile | 8 mmol | NC=1C=C(C#N)C=CN1 | C6H5N3
reactant | DIPEA | 2 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | acetylchloride | 1.0 eq | C(C)(=O)Cl | C2H3ClO
reactant | ethylacetate water | C(C)OC(C)=O.O
solvent | THF | C1CCOC1 | C4H8O
product | N-(4-Cyano-pyridin-2-yl)-acetamide | C(#N)C1=CC(=NC=C1)NC(C)=O | C8H7N3O
